data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_417824_1,[N:1]1([H:10])[C:3]2([C:2]([N:5]([H:11])[H:12])=[O:9])[C:7]([H:15])=[C:4]([N:6]([H:13])[H:14])[N:8]12>>[n:1]1([H:10])[c:3]([C:2]([N:5]([H:11])[H:12])=[O:9])[c:7]([H:15])[c:4]([N:6]([H:13])[H:14])[n:8]1,18.461049999974364
MR_364902_0,[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])[C:5]([O:7][H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])[C:5]([O:7][H:9])=[O:8])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],63.24196000002061
MR_84166_1,[C:1]([N:4]([H:10])[H:11])([O:6][H:8])(/[N:7]=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:5]([H:12])[H:13])[H:9]>>[C:1](\[O:6][H:8])(=[N:7]\[C:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:9],59.22282249996656
MR_251331_2,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]\[H:10])([O:6][C:2]([H:11])([H:12])[H:13])[O:7][H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([O:7][H:9])[C:5]([C:4]([H:17])([H:18])[H:19])([O:6][C:2]([H:11])([H:12])[H:13])[N:8]1[H:10],70.64332249998898
MR_389824_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[N:4]([H:8])[H:9])([O:5][O:6][H:7])([H:10])[H:11]>>[C:1]([O:5][N:3]([C:2]([H:12])([H:13])[H:14])[N:4]([H:8])[H:9])([O:6][H:7])([H:10])[H:11],53.43915500001586
MR_514097_0,[C@:1]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([N:5]([H:11])[H:12])(/[C:6](=[N:8]\[O:7][H:9])[H:13])[H:10]>>[C@:1]1([N:5]([H:11])[H:12])([H:10])[C@@:6]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([H:13])[N:8]1[O:7][H:9],60.7532950000261
MR_7269_1,[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:6])[H:8])(=[O:5])[H:7]>>[C:1](=[C:2](\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])(\[O:5][H:6])[H:7],67.57045499998917
MR_290382_0,[C:1]12([H:9])[N:4]([H:7])[C:2]([H:10])([C:3]([H:11])([H:12])[N:5]1[H:8])[O:6]2>>[C:1]([N:5]([C:3](/[C:2](=[N:4]/[H:7])[H:10])([H:11])[H:12])[H:8])(=[O:6])[H:9],24.387159999993457
MR_652903_1,[C:1](/[C:2]([N:4]([H:9])[H:10])=[N:6]/[H:11])(/[C:3]([C:5](=[O:8])[H:13])=[N:7]\[H:12])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:2]([N:4]([H:9])[H:10])([N:6]([C:5](=[O:8])[H:13])[H:11])/[C:3]1=[N:7]/[H:12],72.86341749998385
MR_572697_0,[C:1]([C:2]([H:15])([H:16])[H:17])([N:4](/[C:5](=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:14])[O:8][H:10])[H:11])([C:6](=[O:9])[H:13])[H:12]>>[C:1]1([C:2]([H:15])([H:16])[H:17])([H:12])[N:4]([H:11])[C:5]1([C:7]([C:3]([H:18])([H:19])[H:20])([C:6](=[O:9])[H:13])[H:14])[O:8][H:10],62.94201499999318
MR_582704_2,[C:1]([C:4]([H:17])([H:18])[H:19])([C:5](/[C:6]([C:3]([H:14])([H:15])[H:16])=[N:7]\[C:2]([H:11])([H:12])[H:13])=[O:8])([H:9])[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([C:6]1([C:3]([H:14])([H:15])[H:16])[C:5](=[O:8])[N:7]1[C:2]([H:11])([H:12])[H:13])([H:9])[H:10],73.02092000001423
MR_88393_0,[C@:1]1([N:4]([H:7])[H:8])([H:6])[C:2]([H:9])([H:10])[C:3]1=[O:5]>>[C:1](=[C:2]([H:9])[H:10])([C:3](=[O:5])[H:6])[N:4]([H:7])[H:8],47.61909249999654
MR_431359_2,[C:1](/[C:2](=[N:6]/[H:14])[H:16])([C:3]([O:7][H:9])([O:8][H:15])[H:17])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13]>>[C:1]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])([C:3]([O:7][H:9])=[O:8])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13],48.51390749996668
MR_124281_1,[C:1](=[C:3]([C:2](/[N:6]([H:15])[H:16])=[N:9]/[N:4]([H:11])[H:12])\[N:7]([H:17])[H:18])(\[N:5]([H:13])[H:14])[O:8][H:10]>>[C:1]1([N:5]([H:13])[H:14])([O:8][H:10])[C:3]([N:7]([H:17])[H:18])=[C:2]([N:6]([H:15])[H:16])[N:9]1[N:4]([H:11])[H:12],51.41923250001497
MR_342998_1,[C@:1]([N:3]([H:10])[H:11])([O:6][H:8])([N:7]=[C:2]([N:4]([H:13])[H:14])[N:5]([H:12])[H:15])[H:9]>>[C:1](\[O:6][H:8])(=[N:7]\[C:2]([N:3]([H:10])[H:11])([N:4]([H:13])[H:14])[N:5]([H:12])[H:15])[H:9],64.16626750000546
MR_470353_1,[C:1]([O:6][C:2]([O:4][O:5][C:3]([O:7][H:10])=[O:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([O:6][C:3]1([O:7][H:10])[O:5][O:4][C:2](=[O:8])[O:9]1)([H:11])([H:12])[H:13],67.29435500002637
MR_216891_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:11])[C:6]([C:2]([C:4]([H:18])([H:19])[H:20])([H:13])[H:14])([N:5]([O:7][H:9])[H:10])[N:8]1[H:12]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([O:7][H:9])[H:10])(/[C:6]([C:2]([C:4]([H:18])([H:19])[H:20])([H:13])[H:14])=[N:8]\[H:12])[H:11],66.09645749998322
MR_150951_0,[C@@:1]([C:2]([H:16])([H:17])[H:18])(/[C:3]([N:4]([H:11])[H:12])=[C:5](\[O:7][H:9])[H:14])(/[C:6](=[N:8]\[H:13])[H:15])[H:10]>>[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:3](/[N:4]([H:11])[H:12])[C@:5](/[C:6](=[N:8]\[H:13])[H:15])([O:7][H:9])[H:14])[H:10],67.8634975000162
MR_198864_1,[C:1](/[C:4](=[C:2]([C:3](=[N:6]\[H:8])/[H:9])\[O:5][H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([H:10])[C:2]([O:5][H:7])=[C:3]([H:9])[N:6]1[H:8])([H:11])([H:12])[H:13],58.51563000003992
MR_434551_1,[C:1]([N:2]([N:3]([H:9])[H:10])/[C:5](=[N:7]\[N:4]([H:11])[H:12])[H:15])([O:6][H:8])([H:13])[H:14]>>[C:1]([O:6][H:8])([N:7]([N:4]([H:11])[H:12])/[C:5](=[N:2]/[N:3]([H:9])[H:10])[H:15])([H:13])[H:14],61.66128750001647
